US06936602B1
In methanol (25 ml) and THF (25 ml) was dissolved methyl 1-benzyl-7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.49 g). To the solution was added 1N sodium hydroxide solution (10 ml), and the mixture was heated at 50° C. overnight and concentrated, then neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate. The solvent was evaporated to give 1-benzyl-7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (0.47 g) as yellow crystals.

reactant | methyl 1-benzyl-7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.49 g | C(C1=CC=CC=C1)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCCC)C(=O)OC | C31H35NO4
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 1-benzyl-7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 0.47 g | C(C1=CC=CC=C1)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCCC)C(=O)O | C30H33NO4
